US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-hydroxyphthalimido)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(4-hydroxyphthalimido)propanoic acid (4.0 g, 10.4 mmol), carbonyldiimidazole (2.02 g, 12.46 mmol) and hydroxylamine hydrochloride (1.13 g, 16.3 mmol) in tetrahydrofuran (20 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-hydroxyphthalimido)propionamide as a yellow solid ( 1.8 g, 44% yield): mp, 143.5-146.0° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 3.09 (d, J=7.9 Hz, 2H, CH2), 3.72 (s, 3H, CH3), 3.98 (q, J=6.9 Hz, 2H, CH2), 5.62 (t, J=7.9 Hz, 1H, NCH), 6.89 (br s, 2H, Ar), 7.01 (br s, 1H, Ar), 7.09-7.12 (m, 2H, Ar), 7.66-7.69 (m, 1H, Ar), 8.88 (br s, 1H, OH), 10.59 (br s, 1H, NH); 13C NMR (DMSO-d6) δ24.71, 44.39, 60.08, 65.47, 73.75, 119.72, 121.76, 122.36, 129.66, 130.53, 131.37, 135.32, 141.49, 144.08, 157.68, 158.51, 173.43, 176.09, 177.49; Anal Calcd for C20H20N2O7+0.35 H2O: C, 59.07; H, 5.13; N, 6.89. Found: C, 58.84; H. 5.05; N, 7.26.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(4-hydroxyphthalimido)propanoic acid | 10.4 mmol, 4.0 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC(=CC2)O)=O | C20H19NO7
reactant | carbonyldiimidazole | 12.46 mmol, 2.02 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 16.3 mmol, 1.13 g | Cl.NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(4-hydroxyphthalimido)propionamide | 1.8 g, 44% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=CC(=CC2)O)=O | C20H20N2O7
